US06521666B1
4-Amino-2,6-dichlorobenzoic acid methyl ester (0.5 g) was suspended in 20% HCl (25 mL) and stirred for 30 min then cooled to 0-5° C. After slow addition of NaNO2 (188 mg), the mixture was stirred for 30 min at that temperature and added to boiling water (50 mL) . The mixture was then refluxed for 2 h, allowed to cool to room temperature and extracted with AcOEt, dried (MgSO4), filtered and evaporated. The residue was purified by preparative TLC (silica gel; eluent: CH2Cl2) to give 2,6-dichloro-4-hydroxybenzoic acid methyl ester (275 mg).

reactant | 4-Amino-2,6-dichlorobenzoic acid methyl ester | 0.5 g | COC(C1=C(C=C(C=C1Cl)N)Cl)=O | C8H7Cl2NO2
reactant | NaNO2 | 188 mg | N(=O)[O-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | HCl | 25 mL | Cl | ClH
product | 2,6-dichloro-4-hydroxybenzoic acid methyl ester | 275 mg | COC(C1=C(C=C(C=C1Cl)O)Cl)=O | C8H6Cl2O3
